US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine (Compound 57)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 72%). 1H NMR (300 MHz, CDCl3): δ 2.45 (s, 3H), 3.26 (s, 4H), 3.77 (s, 3H), 4.08-4.18 (m, 4H), 6.78-6.90 (m, 3H), 7.15-7.38 (m, 3H), 7.56-7.64 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | 72% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl)C | C21H22ClN5O2
